US06632810B2
Synthesis of ethyl 2-(3,4,5-trimethoxyphenyloxy)-acetoacetate:
3,4,5-Trimethoxyphenol (5,83 g) was dissolved in DMF (60 mL), and potassium tert-butoxide (3.55 g) was added to the solution under ice cooling. Ethyl 2-chloroaceto-acetate (4.46 mL) was then added, and the mixture was stirred at room temperature for 3 hours. The reaction mixture was heated to 80° C. and stirred for 2 hours. After allowing the reaction mixture to cool, water was added to the reaction mixture to conduct extraction with ethyl acetate. The resultant organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate:hexane 1:3) to obtain the title compound.

reactant | 3,4,5-Trimethoxyphenol | 5,83 g | COC=1C=C(C=C(C1OC)OC)O | C9H12O4
reactant | potassium tert-butoxide | 3.55 g | CC(C)([O-])C.[K+]
reactant | Ethyl 2-chloroaceto-acetate | 4.46 mL | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | water | O | H2O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(3,4,5-trimethoxyphenyloxy)-acetoacetate | COC=1C=C(C=C(C1OC)OC)OC(C(=O)OCC)C(=O)C | C15H20O7
